US07834051B2
2-chloro-4-(5-ethyl-3,3-dimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile
Using 4-bromo-2-chlorobenzonitrile (219 mg), 5-ethyl-3,3-dimethylpyrrolidine-2,4-dione (120 mg), cesium carbonate (378 mg), tris(dibenzylideneacetone)dipalladium(0) (71 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (89 mg), and in the same manner as in Reference Example 3, the title compound was obtained as a colorless solid (yield: 147 mg, 65%).

reactant | 4-bromo-2-chlorobenzonitrile | 219 mg | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | 5-ethyl-3,3-dimethylpyrrolidine-2,4-dione | 120 mg | C(C)C1C(C(C(N1)=O)(C)C)=O | C8H13NO2
reactant | cesium carbonate | 378 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 89 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 71 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-chloro-4-(5-ethyl-3,3-dimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | ClC1=C(C#N)C=CC(=C1)N1C(C(C(C1CC)=O)(C)C)=O | C15H15ClN2O2
